US08445499B2
Step 1: 4-bromo-2-(trifluoromethyl)pyrimidine
The 2-(trifluoromethyl)pyrimidin-4-ol (328 mg, 2.0 mmol) and PBr3 (0.188 mL, 2.0 mmol) were mixed and heated at 150° C. for 3 h. The reaction was cooled down and quenched with ice water, extracted with DCM (20 mL×2) to yield the titled compound. The organic phase was concentrated and crude material was purified by preparative TLC with 20% Acetone:Hexane to yield titled compound.

reactant | 2-(trifluoromethyl)pyrimidin-4-ol | 2.0 mmol, 328 mg | FC(C1=NC=CC(=N1)O)(F)F | C5H3F3N2O
reactant | PBr3 | 2.0 mmol, 0.188 mL | P(Br)(Br)Br | Br3P
product | 4-bromo-2-(trifluoromethyl)pyrimidine | BrC1=NC(=NC=C1)C(F)(F)F | C5H2BrF3N2
